US04404203
Preparation of 6-phenyl-3(2H)-pyridazinone
The following compounds are prepared according to the procedure set forth in Example 1: 6-(4-fluorophenyl)-3(2H)-pyridazinone; 6-(4-chlorophenyl)-3(2H)-pyridazinone; 6-(3,4-dichlorophenyl)-3(2H)-pyridazinone; 6-(3,4-dimethoxyphenyl)-3(2H)-pyridazinone; 6-(3,4-dihydroxyphenyl)-3(2H)-pyridazinone; 6-(4-methylphenyl)-3(2H)-pyridazinone; 6-(4-phenoxyphenyl)-3(2H)-pyridazinone; 5-methyl-6-phenyl-3(2H)-pyridazinone; 5,6-diphenyl-3(2H)-pyridazinone; 4-methyl-6-phenyl-3(2H)-pyridazinone; 2-methyl-6-phenyl-3(2H)-pyridazinone; 2,6-diphenyl-3(2H)-pyridazinone; and 2-benzyl-6-phenyl-3(2H)-pyridazinone.

reactant | 6-(4-fluorophenyl)-3(2H)-pyridazinone | FC1=CC=C(C=C1)C=1C=CC(NN1)=O | C10H7FN2O
reactant | 6-(4-chlorophenyl)-3(2H)-pyridazinone | ClC1=CC=C(C=C1)C=1C=CC(NN1)=O | C10H7ClN2O
reactant | 6-(3,4-dichlorophenyl)-3(2H)-pyridazinone | ClC=1C=C(C=CC1Cl)C=1C=CC(NN1)=O | C10H6Cl2N2O
reactant | 6-(3,4-dimethoxyphenyl)-3(2H)-pyridazinone | COC=1C=C(C=CC1OC)C=1C=CC(NN1)=O | C12H12N2O3
reactant | 6-(3,4-dihydroxyphenyl)-3(2H)-pyridazinone | OC=1C=C(C=CC1O)C=1C=CC(NN1)=O | C10H8N2O3
reactant | 6-(4-methylphenyl)-3(2H)-pyridazinone | CC1=CC=C(C=C1)C=1C=CC(NN1)=O | C11H10N2O
reactant | 6-(4-phenoxyphenyl)-3(2H)-pyridazinone | O(C1=CC=CC=C1)C1=CC=C(C=C1)C=1C=CC(NN1)=O | C16H12N2O2
reactant | 5-methyl-6-phenyl-3(2H)-pyridazinone | CC1=CC(NN=C1C1=CC=CC=C1)=O | C11H10N2O
reactant | 5,6-diphenyl-3(2H)-pyridazinone | C1(=CC=CC=C1)C1=CC(NN=C1C1=CC=CC=C1)=O | C16H12N2O
reactant | 4-methyl-6-phenyl-3(2H)-pyridazinone | CC=1C(NN=C(C1)C1=CC=CC=C1)=O | C11H10N2O
reactant | 2-methyl-6-phenyl-3(2H)-pyridazinone | CN1N=C(C=CC1=O)C1=CC=CC=C1 | C11H10N2O
reactant | 2,6-diphenyl-3(2H)-pyridazinone | C1(=CC=CC=C1)N1N=C(C=CC1=O)C1=CC=CC=C1 | C16H12N2O
reactant | 2-benzyl-6-phenyl-3(2H)-pyridazinone | C(C1=CC=CC=C1)N1N=C(C=CC1=O)C1=CC=CC=C1 | C17H14N2O
product | 6-phenyl-3(2H)-pyridazinone | C1(=CC=CC=C1)C=1C=CC(NN1)=O | C10H8N2O
